* Copyright (c) Motorola, Inc. 1996
*
* The values contained in these parameter sets may not be modified in any 
* way.
*
* No additional parameters may be added to these parameter sets without 
* prior written permission from Motorola.
*
* Macromodels, simulation models, or other models provided by Motorola, 
* directly or indirectly, are not warranted by Motorola as fully 
* representing all of the specifications and operating characteristics of 
* the semiconductor product to which the model relates. Moreover, these 
* models are furnished on an "as is" basis without support or warranty of 
* any kind, either expressed or implied, regarding the use thereof and 
* Motorola specifically disclaims all implied warranties of 
* merchantability and fitness of the models for any purpose.  Motorola 
* does not assume any liability arising out of the application or use of 
* the models including infringement of patents and copyrights nor does 
* Motorola convey any license under its patents and copyrights or the 
* rights of others. Motorola reserves the right to make changes without 
* notice to any model. Although macromodels can be a useful tool in 
* evaluating device performance in various applications, they cannot model 
* exact device performance under all conditions, nor are they intended to 
* replace breadboarding for final verification. 
*
* Motorola SPICE parameter sets are also available on the Motorola SPS 
* World Wide Web server <URL:http://motserv.indirect.com/>


*BFS17
*Motorola NPN Silicon High-Frequency Transistor
********************
* Version 1.1.0a
.SUBCKT BFS17 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 FS17 
.ENDS BFS17
*
.SUBCKT FS17 1 2 3 
CBPAD 1 2 5E-14 
CEPAD 1 3 5E-14 
Q1 1 2 3 DBFS17 
*
.MODEL DBFS17 NPN 
+ IS = 3.157E-16 
+ BF = 102 
+ NF = 0.9953 
+ VAF = 28 
+ IKF = 0.12 
+ ISE = 4.184E-15 
+ NE = 1.623 
+ BR = 46 
+ NR = 0.9952 
+ VAR = 9 
+ IKR = 0.022 
+ ISC = 1.004E-15 
+ NC = 1.108 
+ RB = 4 
+ IRB = 8E-05 
+ RBM = 4 
+ RE = 0.55 
+ RC = 2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.45E-13 
+ VJE = 0.676 
+ MJE = 0.2361 
+ CJC = 1.1E-12 
+ VJC = 0.5166 
+ MJC = 0.2761 
+ XCJC = 0.4 
+ TF = 6.7E-11 
+ XTF = 150 
+ VTF = 0.6 
+ ITF = 0.75 
+ PTF = 21 
+ TR = 1E-09 
+ FC = 0.96 
.ENDS FS17

*MMBR571
*Motorola NPN Silicon High-Frequency Transistor
********************
* Version 1.1.0a
.SUBCKT MMBR571 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 MBR571 
.ENDS MMBR571
*
.SUBCKT MBR571 1 2 3 
CBPAD 2 1 7E-14 
CEPAD 1 3 7E-14 
Q1 1 2 3 DMBR571 
*
.MODEL DMBR571 NPN 
+ IS = 2.8E-15 
+ BF = 185 
+ NF = 1.005 
+ VAF = 22 
+ IKF = 10 
+ ISE = 2.093E-14 
+ NE = 1.641 
+ BR = 14 
+ NR = 1.005 
+ VAR = 2.2 
+ IKR = 0.25 
+ ISC = 1.196E-15 
+ NC = 1.1 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.3 
+ RC = 1 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3E-12 
+ VJE = 0.92 
+ MJE = 0.44 
+ CJC = 1.8E-12 
+ VJC = 0.641 
+ MJC = 0.406 
+ XCJC = 0.15 
+ TF = 1.25E-11 
+ XTF = 500 
+ VTF = 1 
+ ITF = 2 
+ PTF = 55 
+ TR = 1E-09 
+ FC = 0.95 
.ENDS MBR571

*MMBR901
*Motorola NPN Silicon High-Frequency Transistor
********************
* Version 1.1.0a
.SUBCKT MMBR901 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 MBR901 
.ENDS MMBR901
*
.SUBCKT MBR901 1 2 3 
CBPAD 1 2 2.4E-13 
CEPAD 1 3 2.4E-13 
Q1 1 2 3 DMBR901 
*
.MODEL DMBR901 NPN 
+ IS = 3.698E-16 
+ BF = 100 
+ NF = 1.003 
+ VAF = 46 
+ IKF = 0.7 
+ ISE = 8.812E-15 
+ NE = 1.573 
+ BR = 125.2 
+ NR = 0.9945 
+ VAR = 5 
+ IKR = 1 
+ ISC = 6.423E-15 
+ NC = 1.133 
+ RB = 3 
+ IRB = 8E-05 
+ RBM = 3 
+ RE = 0.4 
+ RC = 32 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.6E-12 
+ VJE = 0.826 
+ MJE = 0.348 
+ CJC = 5.5E-13 
+ VJC = 0.604 
+ MJC = 0.315 
+ XCJC = 0.5 
+ TF = 1.6E-11 
+ XTF = 500 
+ VTF = 1.6 
+ ITF = 0.3 
+ PTF = 85 
+ TR = 1E-09 
+ FC = 0.95 
.ENDS MBR901

*MMBR931
*Motorola NPN Silicon High-Frequency Transistor
********************
* Version 1.1.0a
* The Gummel-Poon BJT model does not model the
* distributed resistance and capacitance of the base-
* collector region. Normally this is not a significant
* problem because most low-power RF parts have low
* overall base-region resistance (8-12 ohms). However,
* the MMBR931 device has a much higher overall
* resistance in the base, and so requires an improved
* distribution of base-collector resistance and
* capacitance.
* This improved distribution is accomplished by adding
* a 3-stage ladder of resistors and diodes between the
* external base and collector nodes of the Gummel-Poon
* model (see the MBR931 sub-circuit). When the
* transitor is in the forward-active mode (B-E
* junction forward biased, B-C junction reverse
* biased), the diodes model the voltage-dependent
* capacitance of the B-C junction.
* If the B-C junction becomes forward-biased by a
* voltage greater than FC * VJC, the diodes are turned
* off, relative to the B-C junction of the BJT. This
* is accomplished by setting the saturation current
* (IS) of the diodes to 1/1000th that of the
* transistor. This model's accuracy when the B-C
* junction is forward-biased into diode turn-off
* region is unknown, and likely not usable for even
* preliminary design work.
********************
.SUBCKT MMBR931 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 MBR931
.ENDS MMBR931
*
.SUBCKT MBR931 1 2 3 
RB1 2 4 6 
RB2 4 5 6 
RB3 5 6 40 
DBC1 2 1 A931BCEX 
DBC2 4 1 A931BCEX
DBC3 5 1 A931BCEX
CBPAD 2 1 1.2E-13 
CEPAD 3 1 1.2E-13 
Q1 1 6 3 DMBR931 
*
.MODEL A931BCEX D 
+ IS = 2.865E-20 
+ TT = 2E-11 
+ CJO = 2.6E-14 
+ VJ = 0.25 
+ M = 0.18 
*
.MODEL DMBR931 NPN 
+ IS = 2.865E-17 
+ BF = 100.5 
+ NF = 1 
+ VAF = 35 
+ IKF = 0.013 
+ ISE = 1.83E-14 
+ NE = 2.235 
+ BR = 3.934 
+ NR = 0.9992 
+ VAR = 4 
+ IKR = 0.001817 
+ ISC = 3.749E-17 
+ NC = 1.1 
+ RB = 1 
+ IRB = 1.992E-05 
+ RBM = 1 
+ RE = 1.3 
+ RC = 40 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1E-13 
+ VJE = 0.7 
+ MJE = 0.27 
+ CJC = 2.6E-14 
+ VJC = 0.25 
+ MJC = 0.18 
+ XCJC = 0.5 
+ TF = 2E-11 
+ XTF = 29 
+ VTF = 1.2 
+ ITF = 0.028 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.5 
.ENDS MBR931

*MMBR941
*Motorola NPN Low Noise, High-Frequency Transistor
********************
* Version 1.1.1a -- dual emitter bond pad
.SUBCKT MMBR941 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 MBR941
.ENDS MMBR941
*
.SUBCKT MBR941 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMBR941 
*
.MODEL DMBR941 NPN 
+ IS = 8.148E-16 
+ BF = 144 
+ NF = 1.002 
+ VAF = 20 
+ IKF = 0.7 
+ ISE = 1.902E-13 
+ NE = 2.077 
+ BR = 43.92 
+ NR = 1 
+ VAR = 2.5 
+ IKR = 0.00825 
+ ISC = 8.972E-16 
+ NC = 1.381 
+ RB = 9 
+ IRB = 8E-05 
+ RBM = 9 
+ RE = 0.48 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.85E-13 
+ VJE = 0.956 
+ MJE = 0.489 
+ CJC = 3.5E-13 
+ VJC = 0.57 
+ MJC = 0.2418 
+ XCJC = 0.3 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 5 
+ ITF = 1.3 
+ PTF = 70 
+ TR = 1E-09 
+ FC = 0.9 
.ENDS MBR941

*MMBR951
*Motorola NPN Low Noise, High-Frequency Transistor
********************
* Version 1.1.0a
.SUBCKT MMBR951 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 MBR951
.ENDS MMBR951
*
.SUBCKT MBR951 1 2 3 
CBPAD 2 1 9E-14 
CEPAD 1 3 9E-14 
Q1 1 2 3 DMBR951 
*
.MODEL DMBR951 NPN 
+ IS = 8.633E-16 
+ BF = 105 
+ NF = 0.9909 
+ VAF = 26 
+ IKF = 100 
+ ISE = 1E-15 
+ NE = 1.356 
+ BR = 60 
+ NR = 0.9983 
+ VAR = 5 
+ IKR = 0.022 
+ ISC = 1.673E-16 
+ NC = 1.076 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.33 
+ RC = 10 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 1.061 
+ MJE = 0.5089 
+ CJC = 7.3E-13 
+ VJC = 0.25 
+ MJC = 0.27 
+ XCJC = 0.5 
+ TF = 9E-12 
+ XTF = 500 
+ VTF = 3 
+ ITF = 1.1 
+ PTF = 85 
+ TR = 1E-09 
+ FC = 0.5 
.ENDS MBR951

*MRF5711
*Motorola NPN High-Frequency Transistors
********************
* Version 1.0.0a
.SUBCKT MRF5711 100 200 300 
LCL1 100 101 1.7E-10 
LCL2 101 102 1.7E-10 
LCL3 102 199 1.7E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 RF5711 
.ENDS MRF5711
*
.SUBCKT RF5711 1 2 3 
CBPAD 2 1 5E-14 
CEPAD 1 3 5E-14 
Q1 1 2 3 DMRF5711 
*
.MODEL DMRF5711 NPN 
+ IS = 1.463E-15 
+ BF = 142 
+ NF = 0.9938 
+ VAF = 30 
+ IKF = 0.7 
+ ISE = 8.968E-14 
+ NE = 1.998 
+ BR = 18.91 
+ NR = 0.9936 
+ VAR = 2.5 
+ IKR = 0.08659 
+ ISC = 9.806E-16 
+ NC = 1.1 
+ RB = 2.4 
+ IRB = 0.0001 
+ RBM = 2.5 
+ RE = 0.26 
+ RC = 1 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.96 
+ MJE = 0.447 
+ CJC = 1.8E-12 
+ VJC = 0.665 
+ MJC = 0.409 
+ XCJC = 0.4 
+ TF = 1.35E-11 
+ XTF = 500 
+ VTF = 0.8 
+ ITF = 1.3 
+ PTF = 50 
+ TR = 1E-09 
+ FC = 0.6 
.ENDS RF5711

*MRF5812
*Motorola NPN High-Frequency Transistor
********************
* Version 1.0.0a
.SUBCKT MRF5812 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.9E-10 
LE1 300 18 1.33E-10 
CB1 14 18 2.6E-13 
CC1 10 18 2.6E-13 
CC2 9 17 2.6E-13 
CC3 8 16 2.6E-13 
LB4 12 11 1.9E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 1.33E-10 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.9E-10 
LB3 13 12 1.9E-10 
CB2 13 17 2.6E-13 
CB3 12 16 2.6E-13 
LE2 18 17 1.33E-10 
LE3 17 16 1.33E-10 
X1 8 5 6 RF5812 
.ENDS MRF5812
*
.SUBCKT RF5812 1 2 3 
CBPAD 2 1 2.2E-13 
CEPAD 1 3 2.2E-13 
Q1 1 2 3 DMRF5812 
*
.MODEL DMRF5812 NPN 
+ IS = 6.363E-15 
+ BF = 131.4 
+ NF = 1.004 
+ VAF = 50 
+ IKF = 6 
+ ISE = 5.709E-14 
+ NE = 1.808 
+ BR = 18 
+ NR = 1 
+ VAR = 3.3 
+ IKR = 5 
+ ISC = 2.98E-15 
+ NC = 1.121 
+ RB = 2.3 
+ IRB = 1E-05 
+ RBM = 2.3 
+ RE = 0.9 
+ RC = 2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.5E-12 
+ VJE = 0.971 
+ MJE = 0.4941 
+ CJC = 3.7E-12 
+ VJC = 0.7 
+ MJC = 0.5 
+ XCJC = 0.5 
+ TF = 1.7E-11 
+ XTF = 40 
+ VTF = 1 
+ ITF = 2 
+ PTF = 35 
+ TR = 1E-09 
+ FC = 0.95
.ENDS RF5812

*MRF9011
Motorola NPN High-Frequency Transistor
********************
* Version 1.0.0a
.SUBCKT MRF9011 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.4E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.4E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.4E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.9E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 RF9011 
.ENDS MRF9011
*
.SUBCKT RF9011 1 2 3 
CBPAD 2 1 8E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9011 
*
.MODEL DMRF9011 NPN 
+ IS = 2.834E-16 
+ BF = 87 
+ NF = 0.985 
+ VAF = 44 
+ IKF = 10 
+ ISE = 3.645E-14 
+ NE = 1.989 
+ BR = 6 
+ NR = 0.9903 
+ VAR = 7 
+ IKR = 0.018 
+ ISC = 4.705E-16 
+ NC = 1.148 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.65 
+ RC = 12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.7E-12 
+ VJE = 0.94 
+ MJE = 0.4 
+ CJC = 9.3E-13 
+ VJC = 0.545 
+ MJC = 0.3 
+ XCJC = 0.05 
+ TF = 2.3E-11 
+ XTF = 400 
+ VTF = 0.5 
+ ITF = 0.5 
+ PTF = 40 
+ TR = 1E-09 
+ FC = 0.6 
.ENDS RF9011

*MRF9331
*Motorola NPN High-Frequency Transistor
********************
* Version 1.0.0a
.SUBCKT MRF9331 100 200 300 
CCE22 100 351 8E-14 
LC 100 102 4E-10 
LB 200 202 1.5E-10 
CBC 102 202 3E-14 
CBE2 202 353 7E-14 
CBE1 200 301 3E-14 
CCE1 102 303 1.3E-13 
CCE2 102 353 1.3E-13 
LE1 301 303 1.5E-10 
LE2 351 353 1.5E-10 
LBB 202 299 8E-10 
LEB1 303 399 8E-10 
LEB2 353 399 8E-10 
RCC 102 199 1E-06 
RX1 300 301 1E-06 
RX2 300 351 1E-06 
X1 199 299 399 RF9331 
.ENDS MRF9331
*
.SUBCKT RF9331 1 2 3 
CBPAD 2 1 3E-14 
CEPAD 1 3 3E-14 
Q1 1 2 3 DMRF9331
*
.MODEL DMRF9331 NPN 
+ IS = 3.2E-17 
+ BF = 238.6 
+ NF = 0.992 
+ VAF = 44 
+ IKF = 0.01798 
+ ISE = 1.615E-14 
+ NE = 2.5 
+ BR = 8 
+ NR = 0.995 
+ VAR = 2 
+ IKR = 0.002 
+ ISC = 7.487E-17 
+ NC = 1.139 
+ RB = 54 
+ IRB = 0.0001 
+ RBM = 54 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1E-13 
+ VJE = 0.9902 
+ MJE = 0.2063 
+ CJC = 1.6E-13 
+ VJC = 0.25 
+ MJC = 0.07 
+ XCJC = 0.13 
+ TF = 1.3E-11 
+ XTF = 30 
+ VTF = 0.7 
+ ITF = 0.05 
+ PTF = 30 
+ TR = 4.578E-09 
+ FC = 0.95 
.ENDS RF9331

*MRF9411
*Motorola NPN Low Noise, High-Frequency Transistor
********************
* Version 1.0.1a
.SUBCKT MRF9411 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.5E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.5E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.5E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 RF9411 
.ENDS MRF9411
*
.SUBCKT RF9411 1 2 3 
CBPAD 2 1 4E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9411 
*
.MODEL DMRF9411 NPN 
+ IS = 4.558E-16 
+ BF = 136 
+ NF = 0.9979 
+ VAF = 21 
+ IKF = 0.7 
+ ISE = 3.087E-14 
+ NE = 2 
+ BR = 42 
+ NR = 0.993 
+ VAR = 2.9 
+ IKR = 0.016 
+ ISC = 3.411E-17 
+ NC = 1.087 
+ RB = 7 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.45 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.6E-13 
+ VJE = 0.94 
+ MJE = 0.42 
+ CJC = 4.3E-13 
+ VJC = 0.35 
+ MJC = 0.21 
+ XCJC = 0.44 
+ TF = 1.3E-11 
+ XTF = 400 
+ VTF = 6 
+ ITF = 1.5 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.98 
.ENDS RF9411

*MRF947
*Motorola NPN Low Noise, High-Frequency Transistor
********************
* Version 1.1.1b
.SUBCKT MRF947 100 200 300 
LCL 100 199 3.4E-10 
LBL 200 201 2.9E-10 
LBB 201 299 7.8E-10 
LEL 300 301 2.9E-10 
LEB 301 399 7.8E-10 
CCB 201 199 4E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 RF947 
.ENDS MRF947
*
.SUBCKT RF947 1 2 3 
CBPAD 2 1 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMRF947 
*
.MODEL DMRF947 NPN 
+ IS = 4.536E-16 
+ BF = 130 
+ NF = 1.003 
+ VAF = 24 
+ IKF = 0.8 
+ ISE = 7.238E-13 
+ NE = 2.577 
+ BR = 21 
+ NR = 1 
+ VAR = 3.3 
+ IKR = 0.022 
+ ISC = 1.71E-15 
+ NC = 1.202 
+ RB = 8 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.65 
+ RC = 12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.2E-13 
+ VJE = 0.93 
+ MJE = 0.355 
+ CJC = 4E-13 
+ VJC = 0.357 
+ MJC = 0.237 
+ XCJC = 0.5 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 4 
+ ITF = 1.2 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.95 
.ENDS RF947

*MRF9511
*Motorola NPN Low Noise, High-Frequency Transistor
********************
* Version 1.0.0a
.SUBCKT MRF9511 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.6E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.6E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.6E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 RF9511 
.ENDS MRF9511
*
.SUBCKT RF9511 1 2 3 
CBPAD 2 1 6E-14 
CEPAD 1 3 6E-14 
Q1 1 2 3 DMRF9511 
*
.MODEL DMRF9511 NPN 
+ IS = 1.168E-15 
+ BF = 140 
+ NF = 1.001 
+ VAF = 20 
+ IKF = 1 
+ ISE = 2.165E-15 
+ NE = 1.371 
+ BR = 45 
+ NR = 0.9924 

+ VAR = 3.3 
+ IKR = 0.022 
+ ISC = 2.294E-16 
+ NC = 1.133 
+ RB = 3.5 
+ IRB = 8E-05 
+ RBM = 3.5 
+ RE = 0.55 
+ RC = 1.8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.8E-12 
+ VJE = 1.1 
+ MJE = 0.5576 
+ CJC = 8.5E-13 
+ VJC = 0.41 
+ MJC = 0.3 
+ XCJC = 0.5 
+ TF = 1.3E-11 
+ XTF = 400 
+ VTF = 0.6 
+ ITF = 1.5 
+ PTF = 48 
+ TR = 1E-09 
+ FC = 0.9 
.ENDS RF9511

*MMBR521 Motorola
********************
* Version 1.1.0a
.SUBCKT XMMBR521 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
CCG 199 0 1E-13 
CBG 201 0 1E-13 
CEG 301 0 1E-13 
X1 199 299 399 MMBR521
.ENDS XMMBR521
*
.SUBCKT MMBR521 100 200 300 
CEPAD 300 100 2.4E-13 
CBPAD 200 100 2.4E-13 
Q1 100 200 300 DMMBR521 
*
.MODEL DMMBR521 PNP 
+ IS = 1.755E-15 
+ BF = 107 
+ NF = 1.004 
+ VAF = 15 
+ IKF = 0.13 
+ ISE = 2.178E-13 
+ NE = 1.51 
+ BR = 47 
+ NR = 0.9993 
+ VAR = 3 
+ IKR = 0.0038 
+ ISC = 4.18E-15 
+ NC = 1.283 
+ RB = 1 
+ IRB = 1.2E-05 
+ RBM = 0.3 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.83 
+ MJE = 0.38 
+ CJC = 1.7E-12 
+ VJC = 0.712 
+ MJC = 0.425 
+ XCJC = 0.5 
+ TF = 4.8E-11 
+ XTF = 9.936 
+ VTF = 0.8 
+ ITF = 0.2 
+ PTF = 10 
+ TR = 8.2E-09 
+ FC = 0.9 
.ENDS MMBR521
